US09029374B2
To a solution of 2-(methylamino)ethanol (2.14 mL, 26.6 mmol) in DCM (60 mL) was added triethylamine (4.1 mL, 29.3 mmol),N,N-dimethylpyridin-4-amine (1.63 g, 13.3 mmol) and tert-butylchlorodiphenylsilane (7.6 mL, 29.3 mmol). The reaction was stirred overnight at 40° C. After cooling to RT, the reaction was quenched with water (20 mL) and ether (100 mL). The organic phase was washed with water, brine, dried over magnesium sulfate and concentrated to afford the crude product which was purified by flash chromatography on silica gel eluting with 0 to 10% MeOH in DCM. The solvent was evaporated to dryness to afford 2-(tert-butyldiphenylsilyloxy)-N-methylethanamine (4.4 g, 53%) as a colorless oil. NMR Spectrum (DMSOd6): 0.99 (s, 9H), 2.27 (s, 3H), 2.63 (t, 2H), 3.68 (t, 2H), 7.40-7.49 (m, 6H), 7.60-7.65 (m, 4H).

reactant | 2-(methylamino)ethanol | 26.6 mmol, 2.14 mL | CNCCO | C3H9NO
reactant | triethylamine | 29.3 mmol, 4.1 mL | C(C)N(CC)CC | C6H15N
reactant | tert-butylchlorodiphenylsilane | 29.3 mmol, 7.6 mL | C(C)(C)(C)[Si](C1=CC=CC=C1)(C1=CC=CC=C1)Cl | C16H19ClSi
solvent | DCM | 60 mL | C(Cl)Cl | CH2Cl2
catalyst | N,N-dimethylpyridin-4-amine | 13.3 mmol, 1.63 g | CN(C1=CC=NC=C1)C | C7H10N2
product | 2-(tert-butyldiphenylsilyloxy)-N-methylethanamine | 4.4 g, 53% | [Si](C1=CC=CC=C1)(C1=CC=CC=C1)(C(C)(C)C)OCCNC | C19H27NOSi
